US07601856B2
Following the procedure of Example 1, tetrahydro-dibenzofuran-2-ylamine (1.1 g, 6.0 mmol), t-butylacetyl chloride (0.93 mL, 6.6 mmol), and triethylamine (2.6 mL, 18 mmol) in tetrahydrofuran (11 mL) provided 3,3-dimethyl-N-(6,7,8,9-tetrahydro-dibenzofuran-2-yl)-butyramide (0.92 g). Mp 164-165° C.; Anal. Calcd. for C18H23NO2: C, 75.76; H, 8.12; N, 4.91; Found: C, 75.62; H, 8.18; N, 5.00.

reactant | tetrahydro-dibenzofuran-2-ylamine | 6.0 mmol, 1.1 g | C1C(CCC=2OC3=C(C21)C=CC=C3)N | C12H13NO
reactant | t-butylacetyl chloride | 6.6 mmol, 0.93 mL | C(C)(C)(C)CC(=O)Cl | C6H11ClO
reactant | triethylamine | 18 mmol, 2.6 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 11 mL | O1CCCC1 | C4H8O
product | 3,3-dimethyl-N-(6,7,8,9-tetrahydro-dibenzofuran-2-yl)-butyramide | 0.92 g | CC(CC(=O)NC1=CC2=C(OC3=C2CCCC3)C=C1)(C)C | C18H23NO2
